US04581369
To a suspension of 10.9 g of 2-chloro-5-(1-imidazolyl)-2',4',6'-trimethylbenzophenone in 65 ml of ethanol is added a solution of 1.4 g of sodium borohydride in 14 ml of water. The mixture is stirred at 50° C. for 18 hours, and then the reaction mixture is poured into ice-cold water. The crystals precipitated are filtered off and recrystallized from ethanol to give 9.4 g of α-(2,4,6-trimethylphenyl)-2-chloro-5-(1-imidazolyl)benzenemethanol as white crystals, melting at 206°-207° C.

reactant | 2-chloro-5-(1-imidazolyl)-2',4',6'-trimethylbenzophenone | 10.9 g | ClC1=C(C(=O)C2=C(C=C(C=C2C)C)C)C=C(C=C1)N1C=NC=C1 | C19H17ClN2O
reactant | sodium borohydride | 1.4 g | [BH4-].[Na+]
solvent | ethanol | 65 ml | C(C)O | C2H6O
solvent | water | 14 ml | O | H2O
product | α-(2,4,6-trimethylphenyl)-2-chloro-5-(1-imidazolyl)benzenemethanol | 9.4 g | CC1=C(C(=CC(=C1)C)C)C(O)C1=C(C=CC(=C1)N1C=NC=C1)Cl | C19H19ClN2O
